US04053601
i. A stirred mixture of 6-chloro-3-(2-hydroxy-4-methoxyphenyl)pyridazine (0.1 mole), potassium carbonate (0.3 mole) and epibromohydrin (0.4 mole) in butan-2-one was heated under reflux overnight. The filtered solution was evaporated to give an oil which was purified by elution with mixtures of chloroform-methanol on a silica column to give 6-chloro-3-[2-(2,3-epoxypropoxy)phenyl]pyridazine.

reactant | 6-chloro-3-(2-hydroxy-4-methoxyphenyl)pyridazine | 0.1 mole | ClC1=CC=C(N=N1)C1=C(C=C(C=C1)OC)O | C11H9ClN2O2
reactant | potassium carbonate | 0.3 mole | C([O-])([O-])=O.[K+].[K+]
reactant | epibromohydrin | 0.4 mole | C(Br)C1CO1 | C3H5BrO
solvent | butan-2-one | CC(CC)=O | C4H8O
product | 6-chloro-3-[2-(2,3-epoxypropoxy)phenyl]pyridazine | ClC1=CC=C(N=N1)C1=C(C=CC=C1)OCC1CO1 | C13H11ClN2O2
